US07381840B2
Next, to 8-amino-3,4-dihydronaphthalen-2(1H)-one (0.050 g, 0.318 mmol) in methanol (10 mL) was added sodium borohydride (0.030 g, 0.175 mmol) at 0° C., and the mixture was stirred for 1 hour. The mixture was poured into water, and the product was extracted with ethylacetate. The organic layer was dried over Na2SO4, filtered, and concentrated under reduced pressure to afford 8-amino-1,2,3,4-tetrahydronaphthalen-2-ol (0.037 g, 71% yield).

reactant | 8-amino-3,4-dihydronaphthalen-2(1H)-one | 0.318 mmol, 0.050 g | NC=1C=CC=C2CCC(CC12)=O | C10H11NO
reactant | sodium borohydride | 0.175 mmol, 0.030 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | methanol | 10 mL | CO | CH4O
product | 8-amino-1,2,3,4-tetrahydronaphthalen-2-ol | 0.037 g, 71% yield | NC=1C=CC=C2CCC(CC12)O | C10H13NO
